US05254595
A mixture of 4-hydroxy-9-oxoxanthene (1.1 g), epichlorohydrin (4 g) and piperidine (0.01 g) is heated on a boiling water-bath for 5 hours. Excess epichlorohydrin is then removed by distillation and the residue is dissolved in ethyl acetate (50 ml). The organic solution is washed with 2N NaOH (20 ml) and concentrated to dryness yielding 1-chloro-2-hydroxy-3-(9-oxoxanth-4-yloxy)propane (0.6 g) as a raw product. A solution of this product in absolute ethanol (20 ml) is then added to a solution of 2-aminotetralin (0.3 g) in ethanol (10 ml) and the mixture is refluxed for 4 hours and then evaporated to dryness. The obtained residue is taken up in hydrogen chloride saturated-isopropanol affording the desired N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy -3-oxoxanth-4-yloxypropanamine hydrochloride ((i): R=H, Ar=radical 29, wherein Z is >C=0, and the chain is attached to position 2 of the tetralin moiety)(Ex. 91). Analogously, but starting from 4-hydroxyxanthene, N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-xanth-4-yloxypropanamine hydrochloride is obtained ((i): R=H, Ar=radical 29, wherein Z is a methylene group, and the chain is attached to position 2 of the tetralin moiety) (Ex. 92).

reactant | 4-hydroxy-9-oxoxanthene | 1.1 g | OC1=CC=CC=2C(C3=CC=CC=C3OC12)=O | C13H8O3
reactant | epichlorohydrin | 4 g | C(Cl)C1CO1 | C3H5ClO
catalyst | piperidine | 0.01 g | N1CCCCC1 | C5H11N
product | 1-chloro-2-hydroxy-3-(9-oxoxanth-4-yloxy)propane | 0.6 g | ClCC(COC1=CC=CC=2C(C3=CC=CC=C3OC12)=O)O | C16H13ClO4
